US20010027196A1
Following an adaptation of the method of Elghandour et al. (Ind. J. Chem. 1997, B36, 79), to a stirred solution of 3.98 g (60.3 mmol) malonitrile, 6.04 g (60.3 mmol) cyanothioacetamide and 5.0 ml (60.3 mmol) furfural in 100 ml ethanol and 5 ml DMF at 0° C. was added dropwise 0.4 ml (3.0 mmol) triethylamine and stirring was continued at 0° C. for 2 hours. The resulting crystals were collected by filtration and washed with ice-cold ether to afford 10.4 g (71%) 2,6-diamino-4-furan-2-yl-4H-thiopyran-3,5-dicarbonitrile as a white crystalline solid. EI-MS m/e (%): 244 (M+, 100), 211 ([M—SH]+, 64), 60 (50).

reactant | malonitrile | 60.3 mmol, 3.98 g | C(C(O)CC#N)#N | C4H4N2O
reactant | cyanothioacetamide | 60.3 mmol, 6.04 g | C(#N)CC(=S)N | C3H4N2S
reactant | furfural | 60.3 mmol, 5.0 ml | C(C1=CC=CO1)=O | C5H4O2
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | triethylamine | 3.0 mmol, 0.4 ml | C(C)N(CC)CC | C6H15N
product | 2,6-diamino-4-furan-2-yl-4H-thiopyran-3,5-dicarbonitrile | 10.4 g, 71% | NC=1SC(=C(C(C1C#N)C=1OC=CC1)C#N)N | C11H8N4OS
